US04843061
Preparation of 3-methylbutyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate (2a, R=3-methylbut-1-yl)
In the same manner as described in Example 5, starting from 60 g (0.33 mol) of 3-methylbut-1-yl trans-4-methyl-2-pentenoate and 25 g (0.185 mol) of cyclopentadiene dimer, 32 g were obtained of the desired compound as a mixture consisting of 35% endo- and 65% exo-isomer. b.p.: 82°-92° C./35 Pa. NMR (endo-isomer): 0.7-1.1 (12H); 2.40 (1H); 2.72 (1H); 3.05 (1H); 3.97 (2H, t, J=7 Hz); 5.8 -6.2 (2H). NMR (exo-isomer): 0.7-1.1 (12H); 1.95 (1H); 2.86 (2H); 4.05 (2H, t, J=7 Hz); 6.1 (2H).

reactant | 3-methylbut-1-yl trans-4-methyl-2-pentenoate | 0.33 mol, 60 g | CC(/C=C/C(=O)OCCC(C)C)C | C11H20O2
reactant | cyclopentadiene dimer | 0.185 mol, 25 g | C1C=CC2C1C3CC2C=C3 | C10H12
product | 3-methylbutyl 3-isopropyl-5-bicyclo[2.2.1]heptene-2-carboxylate | C(C)(C)C1C(C2C=CC1C2)C(=O)OCCC(C)C | C16H26O2
